US06313312B1
6-Methyl-6-(2-nitrophenyl)-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
To a solution of 1-(3-nitrophenyl)-1-ethanone hydrazone (Preparation 135, 100 g, 0.56 mol) in dioxan (1 l) was added manganese (IV) oxide (200 g, 2.3 mol) and the reaction mixture was stirred at room temperature for 30 min. The suspension was filtered through Celite™ washing with dioxan (ca. 200 ml). 1-(3-Phenylpropyl)-1H-pyrrole-2,4-dione (Preparation 80, 110 g, 0.54 mol) was added to the filtrate and the reaction mixture was stirred at room temperature for 4 h before heating under reflux for 16 h. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was triturated in methanol (500 ml) and the precipitate was collected by filtration to afford the title compound as a white crystalline solid (121 g, 65%).

reactant | 1-(3-nitrophenyl)-1-ethanone hydrazone | 0.56 mol, 100 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=NN | C8H9N3O2
reactant | 1-(3-Phenylpropyl)-1H-pyrrole-2,4-dione | 0.54 mol, 110 g | C1(=CC=CC=C1)CCCN1C(CC(C1)=O)=O | C13H15NO2
reactant | dioxan | 1 l | O1CCOCC1 | C4H8O2
catalyst | manganese (IV) oxide | 2.3 mol, 200 g | [O-2].[Mn+4].[O-2]
product | 6-Methyl-6-(2-nitrophenyl)-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 121 g, 65% | CC1(C2C(N(C(C12)=O)CCCC1=CC=CC=C1)=O)C1=C(C=CC=C1)[N+](=O)[O-] | C21H20N2O4
